US04436892
1-(2-Chloro-6-nitrobenzoyl)-2-phenyl-imidazole
13.4 g of 2-phenylimidazole are dissolved in 120 ml of tetrahydrofuran; 9.7 g of triethylamine are added, and there are then added dropwise, at reflux temperature within 10 minutes, 20.5 g of 2-chloro-6-nitro-benzoyl chloride, dissolved in 40 ml of tetrahydrofuran. The mixture is refluxed for 1 hour, and the precipitated triethylamine hydrochloride is removed at room temperature by filtration in vacuo. After removal of the solvent in the rotary evaporator, the crude product is recrystallised from 65 ml of acetonitrile. The yield is 25.1 g (82.4% of theory) of product, m.p. 147°-148° C. Concentration of the mother liquor by evaporation produces a further 2.1 g (6.9% of theory) of this product, m.p. 144°-147° C.

reactant | 2-phenylimidazole | 13.4 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | triethylamine | 9.7 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-6-nitro-benzoyl chloride | 20.5 g | ClC1=C(C(=O)Cl)C(=CC=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(2-Chloro-6-nitrobenzoyl)-2-phenyl-imidazole | ClC1=C(C(=O)N2C(=NC=C2)C2=CC=CC=C2)C(=CC=C1)[N+](=O)[O-] | C16H10ClN3O3
